US08008334B2
8-(2-Nitrophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
0.055 ml of sulphuric acid is added slowly dropwise at 0° C. to 0.046 ml of nitric acid. The nitrating acid is subsequently added slowly dropwise at 0° C. to 0.69 mmol of 8-phenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine. The reaction mixture is subsequently stirred at 0° C. for 5 minutes and then poured into ice-water. The aqueous phase is rendered neutral with saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane (3×). The combined organic phases are dried over magnesium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F) as a brown wax. Rf=0.25 (dichloromethane/ammonia (2M in EtOH) 97:3), Rt=5.10 (Gradient I).

reactant | sulphuric acid | 0.055 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 8-phenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C1(=CC=CC=C1)C1C=2N(CCC1)C=NC2 | C13H14N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 8-(2-Nitrophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | [N+](=O)([O-])C1=C(C=CC=C1)C1C=2N(CCC1)C=NC2 | C13H13N3O2
